US06982348B2
To a solution of (4RS,5SR)-5-(3,4-difluorophenyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one (3.5 g, 9.8 mmol) in ethanol (60 ml) was added 8N aqueous sodium hydroxide solution (6.1 ml, 49 mmol) and the mixture was heated under reflux for 6 hrs. The reaction solution was concentrated, diluted with water (300 ml), and extracted with ethyl acetate (300 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give (1RS,2SR)-2-amino-1-(3,4-difluorophenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol (2.43 g, 75%).

reactant | (4RS,5SR)-5-(3,4-difluorophenyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one | 9.8 mmol, 3.5 g | FC=1C=C(C=CC1F)C1C(NC(O1)=O)CC1=CC=C(C=C1)C(F)(F)F | C17H12F5NO2
reactant | sodium hydroxide | 49 mmol, 8N, 6.1 ml | [OH-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-1-(3,4-difluorophenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol | 2.43 g, 75% | NC(C(O)C1=CC(=C(C=C1)F)F)CC1=CC=C(C=C1)C(F)(F)F | C16H14F5NO
